US03931177
Methyl 3-[5-acetamido-2-(3-t-butylamino-2-hydroxypropoxy)benzoyl]propionate was hydrolysed by aqueous acid and the solution was neutralised and evaporated to dryness. 3-[5-Amino-2-(3-t-butylamino-2-hydroxypropoxy)benzoyl]propionic acid was extracted from the residue with hot ethanol and the combined extracts were evaporated to give the crude acid, which was cyclised by hydrazine hydrate as in Example 2(iv) to give 6-[5-amino-2(3-t-butylamino-2-hydroxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone.

reactant | Methyl 3-[5-acetamido-2-(3-t-butylamino-2-hydroxypropoxy)benzoyl]propionate | C(C)(=O)NC=1C=CC(=C(C(=O)CCC(=O)OC)C1)OCC(CNC(C)(C)C)O | C20H30N2O6
reactant | hydrazine hydrate | O.NN
product | 6-[5-amino-2(3-t-butylamino-2-hydroxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone | NC=1C=CC(=C(C1)C=1CCC(NN1)=O)OCC(CNC(C)(C)C)O | C17H26N4O3
